US06313132B1
33.5 N,N-Diisopropyl-3-(2-aminophenyl)-3-phenylpropenamide
N,N-Diisopropyl-3-[2-(3,5-dimethyl-4-hydroxyphenylazo)phenyl]-3-phenylpropenamide (2.58 g, 5.68 mmol) was treated as described in Example 28.3. The crude residue gave crystals from aqueous ethanol. Yield 1.23g (67%).

reactant | N,N-Diisopropyl-3-[2-(3,5-dimethyl-4-hydroxyphenylazo)phenyl]-3-phenylpropenamide | 5.68 mmol, 2.58 g | C(C)(C)N(C(C=C(C1=CC=CC=C1)C1=C(C=CC=C1)N=NC1=CC(=C(C(=C1)C)O)C)=O)C(C)C | C29H33N3O2
solvent | ethanol | C(C)O | C2H6O
product | N,N-Diisopropyl-3-(2-aminophenyl)-3-phenylpropenamide | C(C)(C)N(C(C=C(C1=CC=CC=C1)C1=C(C=CC=C1)N)=O)C(C)C | C21H26N2O
